US09278985B2
Preparation of methyl 4-amino-3-chloro-5-fluoro-6-(7-fluoro-1-(triisopropylsilyl)-1H-indol-6-yl)picolinate (Compound 1.12)
7-Fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-(triisopropylsilyl)-1H-indole (1.0 g, 2.4 mmol), methyl 4-amino-3,6-dichloro-5-fluoropicolinate (630 mg, 2.6 mmol), sodium carbonate (250 mg, 2.4 mmol) and with bis(triphenylphosphine)palladium(II) chloride (170 mg, 0.24 mmol) were combined in 10 mL of 1:1 v/v acetonitrile-water and heated at 110° C. for 30 min in a Biotage Initiator microwave reactor. The mixture was stirred with 30 mL ethyl acetate and 20 mL water and filtered through glass wool to remove dark solids. The organic phase was washed with sat. NaCl, dried (Na2SO4), and evaporated. Purification by flash chromatography (SiO2; eluting with 0-30% ethyl acetate in hexanes) provided 520 mg of the title compound as a white solid (520 mg; 42).

reactant | 7-Fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-(triisopropylsilyl)-1H-indole | 2.4 mmol, 1.0 g | FC=1C(=CC=C2C=CN(C12)[Si](C(C)C)(C(C)C)C(C)C)B1OC(C(O1)(C)C)(C)C | C23H37BFNO2Si
reactant | methyl 4-amino-3,6-dichloro-5-fluoropicolinate | 2.6 mmol, 630 mg | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C7H5Cl2FN2O2
reactant | sodium carbonate | 2.4 mmol, 250 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile water | C(C)#N.O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.24 mmol, 170 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-amino-3-chloro-5-fluoro-6-(7-fluoro-1-(triisopropylsilyl)-1H-indol-6-yl)picolinate | 520 mg | NC1=C(C(=NC(=C1F)C1=CC=C2C=CN(C2=C1F)[Si](C(C)C)(C(C)C)C(C)C)C(=O)OC)Cl | C24H30ClF2N3O2Si
